US05723450
4-[O-Benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)hydroxylamino]-3-methoxy-2-methylpyridine
Prepared analogously to Example 5 from 4-(O-benzylhydroxylamino)-3-methoxy-2-methylpyridine and 8-tosyloxy-1,4-dioxaspiro[4.5]decane. Yield: 70%

reactant | 4-(O-benzylhydroxylamino)-3-methoxy-2-methylpyridine | C(C1=CC=CC=C1)ONC1=C(C(=NC=C1)C)OC | C14H16N2O2
reactant | 8-tosyloxy-1,4-dioxaspiro[4.5]decane | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCC2(OCCO2)CC1 | C15H20O5S
product | 4-[O-Benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)hydroxylamino]-3-methoxy-2-methylpyridine | Yield: 70% | C(C1=CC=CC=C1)ON(C1CCC2(OCCO2)CC1)C1=C(C(=NC=C1)C)OC | C22H28N2O4
